US08236826B2
Production of 3-[3-methoxy-4-(5-nitropyridin-2-yloxy)phenyl]-1-(4-piperonylpiperazin-1-yl)propan-1-one
3-[3-methoxy-4-(5-nitropyridin-2-yloxy)phenyl]propionic acid (3.18 g, 10 mmol) was dissolved in dichloromethane (30 mL). To the resulting solution were added thionyl chloride (0.88 mL, 12 mmol) and DMF (1 drop), and refluxed for 2 hours. The reaction solution was concentrated under reduced pressure, and the residue was dissolved in dichloromethane (20 mL). To the resulting solution were added triethylamine (1.67 mL, 12 mmol) and a solution of 1-piperonylpiperazine (2.20 g, 10 mmol) in dichloromethane (30 mL) under ice cooling, and the resulting solution was stirred for 1 hour at 0° C. The resulting reaction solution was washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate, and evaporated. The residue was recrystallized from ethyl acetate, to thereby yield 4.95 g of the title compound.

reactant | 3-[3-methoxy-4-(5-nitropyridin-2-yloxy)phenyl]propionic acid | 10 mmol, 3.18 g | COC=1C=C(C=CC1OC1=NC=C(C=C1)[N+](=O)[O-])CCC(=O)O | C15H14N2O6
reactant | thionyl chloride | 12 mmol, 0.88 mL | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 12 mmol, 1.67 mL | C(C)N(CC)CC | C6H15N
reactant | 1-piperonylpiperazine | 10 mmol, 2.20 g | C(C1=CC=2OCOC2C=C1)N1CCNCC1 | C12H16N2O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-[3-methoxy-4-(5-nitropyridin-2-yloxy)phenyl]-1-(4-piperonylpiperazin-1-yl)propan-1-one | COC=1C=C(C=CC1OC1=NC=C(C=C1)[N+](=O)[O-])CCC(=O)N1CCN(CC1)CC1=CC=2OCOC2C=C1 | C27H28N4O7
